US08314138B2
To a solution of 4-methyl-2-[6-((E)-styryl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide (32 mg, 0.08 mmol, 1.0 equiv.) in ethyl acetate was added Pd/C (15 mg, 10%). The flask was first purged with nitrogen, then with hydrogen. The reaction mixture was stirred at ambient temperature for 18 hr and monitored by LCMS. Upon completion, the reaction mixture was diluted with ethyl acetate, filtered through Celite and concentrated in vacuo. The crude product was purified by column chromatography [SiO2, methanol/dichloromethane, 0:100 to 5:95, v/v] and recrystallization (methanol) to afford 4-methyl-2-(6-phenethyl-pyrazin-2-yl)-thiazole-5-carboxylic acid benzylamide (18 mg, 56%). 1H NMR (400 MHz, CD2Cl2) δ 9.15 (s, 1H), 8.36 (s, 1H), 7.14-7.37 (m, 10H), 6.21 (bs, 1H), 4.60 (d, J=8.0 Hz, 2H), 3.09-3.16 (m, 4H), 2.73 (s, 3H); HRMS (M+H)+=415.16.

reactant | 4-methyl-2-[6-((E)-styryl)-pyrazin-2-yl]-thiazole-5-carboxylic acid benzylamide | 0.08 mmol, 32 mg, 1.0 equiv. | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)\C=C\C1=CC=CC=C1)C | C24H20N4OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 4-methyl-2-(6-phenethyl-pyrazin-2-yl)-thiazole-5-carboxylic acid benzylamide | 18 mg, 56% | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)C1=NC(=CN=C1)CCC1=CC=CC=C1)C | C24H22N4OS
